US05872115
Step 4): The mixture of 4-dimethylamino-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)-bezamide (1.60 g, 3.5 mmol) and Raney Nickel in EtOH (75 ml) was stirred under H2 at room temperature for 4 hours. The mixture was filtered, and the filtrate was concentrated under vacuum. The residue was purified with chromatography on silica gel (30-50% AcOEt in hexane) and recrystallized from diisopropyl ether to obtain 2-amino-4-dimethylamino-N-(1-diphenylmethyl-piperidin-4-yl)benzamide 1.18 g (79%): mp 118° C.

reactant | 4-dimethylamino-2-nitro-N-(1-diphenylmethylpiperidin-4-yl)-bezamide | 3.5 mmol, 1.60 g | CN(C1=CC(=C(C(=O)NC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)[N+](=O)[O-])C | C27H30N4O3
catalyst | Raney Nickel | [Ni] | Ni
solvent | EtOH | 75 ml | CCO | C2H6O
product | 2-amino-4-dimethylamino-N-(1-diphenylmethyl-piperidin-4-yl)benzamide | 1.18 g, 79% | NC1=C(C(=O)NC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)N(C)C | C27H32N4O
